US08119617B2
A mixture of 1.02 g of nitrobenzylbromide and 1.08 ml of triethylphosphite in 10 ml of toluene is heated to reflux for 12 hours. From the mixture obtained solvent is evaporated. (2-Nitro-benzyl)-phosphonic acid diethyl ester is obtained.

reactant | nitrobenzylbromide | 1.02 g | [N+](=O)([O-])C(C1=CC=CC=C1)Br | C7H6BrNO2
reactant | triethylphosphite | 1.08 ml | C(C)OP(OCC)OCC | C6H15O3P
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | (2-Nitro-benzyl)-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)CC1=C(C=CC=C1)[N+](=O)[O-] | C11H16NO5P
